US04935414
4-(3-(4-((4-Difluoromethoxyphenyl)phenylmethyl)piperazin-1-yl)-2-hydroxypropoxy)-1H-indole-2-carboxamide
3.45 g of 4-(2,3-epoxypropoxy)-1H-indole-2-carboxamide and 4.70 g of 1-((4-difluoromethoxyphenyl)phenylmethyl)piperazine are dissolved at 40° C. in 75 ml of methanol. The mixture is then concentrated to dryness in vacuo, the syrupy residue is heated at 80° C. for 15 minutes and, after cooling, the solidified product is triturated with hexane and filtered off with suction.

reactant | 4-(2,3-epoxypropoxy)-1H-indole-2-carboxamide | 3.45 g | O1C(COC2=C3C=C(NC3=CC=C2)C(=O)N)C1 | C12H12N2O3
reactant | 1-((4-difluoromethoxyphenyl)phenylmethyl)piperazine | 4.70 g | FC(OC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=CC=C1)F | C18H20F2N2O
solvent | methanol | 75 ml | CO | CH4O
product | 4-(3-(4-((4-Difluoromethoxyphenyl)phenylmethyl)piperazin-1-yl)-2-hydroxypropoxy)-1H-indole-2-carboxamide | FC(OC1=CC=C(C=C1)C(N1CCN(CC1)CC(COC1=C2C=C(NC2=CC=C1)C(=O)N)O)C1=CC=CC=C1)F | C30H32F2N4O4
